US06610723B2
4-Chloromethyl-1-(3,4-dichloro-phenyl)-1H-imidazole
In an ice-bath thionyl chloride (39.5 ml, excess) was slowly added to [1-(3,4-dichloro-phenyl)-1H-imidazol-4-yl]-methanol (9.6 g, 39.5 mmol). The resulting mixture was stirred for 24 h. After evaporation, the oily residue was triturated with ether and 10.12 g (86%) of the hydrochloride salt of the title compound was obtained as an off-white solid. To obtain the free base, the salt was carefully neutralized with aqueous NaOH (2N) and extracted with AcOEt. The organic phase was dried (Na2SO4) and concentrated to obtain 8.43 g (95%) of the title compound as an off-white solid. Mp. 146-147° C. dec. (AcOEt/hexane), MS: m/e=260 (M+)

reactant | thionyl chloride | 39.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | [1-(3,4-dichloro-phenyl)-1H-imidazol-4-yl]-methanol | 39.5 mmol, 9.6 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CO | C10H8Cl2N2O
reactant | NaOH | 2N | [OH-].[Na+]
product | 4-Chloromethyl-1-(3,4-dichloro-phenyl)-1H-imidazole | 8.43 g, 95% | ClCC=1N=CN(C1)C1=CC(=C(C=C1)Cl)Cl | C10H7Cl3N2
